US03931268
A suspension of 21.5 g. of sodium hydride in 80 ml. of dimethylformamide was added slowly, while stirring to a solution of 281 g. of 1-methyl-1,2-dicarbobenzoxy-hydrazine in 300 ml. of dimethylformamide. After the evolution of hydrogen had subsided, there was added to the reaction mixture a solution of 167 g. of 4-(bromomethyl)-benzonitrile in 200 ml. of dimethylformamide and the mixture was then heated for 1 hour at 80°. The solvent was then almost completely distilled off in vacuo, the residue triturated with water and extracted with ether. The ether extract was washed with water, dried and concentrated. By recrystallization from dibutylether, there was obtained the 4-[(2-methyl-1,2-dicarbobenzoxy-hydrazino)-methyl]-benzonitrile melting at 68°.

reactant | sodium hydride | [H-].[Na+]
reactant | 1-methyl-1,2-dicarbobenzoxy-hydrazine | CN(NC(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C17H18N2O4
reactant | hydrogen | [H][H] | H2
reactant | 4-(bromomethyl)-benzonitrile | BrCC1=CC=C(C#N)C=C1 | C8H6BrN
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-[(2-methyl-1,2-dicarbobenzoxy-hydrazino)-methyl]-benzonitrile | CN(N(C(=O)OCC1=CC=CC=C1)CC1=CC=C(C#N)C=C1)C(=O)OCC1=CC=CC=C1 | C25H23N3O4
